US07642264B2
5-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine
The title compound was prepared from 6-amino-N-hydroxy-nicotinamidine (example C.3) (0.15 g, 1.0 mmol) and 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid (example D.1) (0.15 g, 0.5 mmol) according to the general procedure V. Obtained as a light brown solid (0.05 g, 24%). MS (ISP) 419.0 [(M+H)+]; mp 211° C.

reactant | 6-amino-N-hydroxy-nicotinamidine | 1.0 mmol, 0.15 g | NC1=NC=C(C(=N)NO)C=C1 | C6H8N4O
reactant | 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.15 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=O)O | C12H6ClF3N2O2
product | 5-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NC(=NO1)C=1C=CC(=NC1)N | C18H10ClF3N6O
